US04616014
A mixture of 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine (2.17 g) and N,N-diethylethylenediamine (2.99 g) was heated at 150° C. to 160° C. for 17 hours. The reaction mixture was dissolved in ethyl acetate, washed with water and brine, and then dried over sodium sulfate, which was treated with silical gel and filtered by suction. The filtrate was evaporated to dryness and the resulting residue was crystallized with diisopropyl ether under ice cooling. The resultant crystals were collected by filtration, washed with diisopropyl ether and dried to give 3-(2-diethylaminoethylamino)-5-methyl-6-phenyl-1,2,4-triazine (1.83 g).

reactant | 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine | 2.17 g | CC=1N=C(N=NC1C1=CC=CC=C1)SC | C11H11N3S
reactant | N,N-diethylethylenediamine | 2.99 g | C(C)N(CCN)CC | C6H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-diethylaminoethylamino)-5-methyl-6-phenyl-1,2,4-triazine | 1.83 g | C(C)N(CCNC=1N=NC(=C(N1)C)C1=CC=CC=C1)CC | C16H23N5
